US04070464
A mixture of 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol (3.0 g., 0.01 mole), tetrahydrothiopyran-4-one (1.18 g., 0.01 mole), and benzene (100 ml.), is refluxed under a Dean-Stark trap for 4 hr. The solvent is evaporated, and the residue is crystallized from ethanol to obtain 3,4-dihydro-6-(1,1-dimethylethyl)-8-iodospiro[2H-1,3-benzoxazine-2,4'-tetrahydrothiopyran], (2.5 g.), m.p. 123°-124° C.

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol | 0.01 mole, 3.0 g | NCC1=C(C(=CC(=C1)C(C)(C)C)I)O | C11H16INO
reactant | tetrahydrothiopyran-4-one | 0.01 mole, 1.18 g | S1CCC(CC1)=O | C5H8OS
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3,4-dihydro-6-(1,1-dimethylethyl)-8-iodospiro[2H-1,3-benzoxazine-2,4'-tetrahydrothiopyran] | 2.5 g | CC(C)(C)C=1C=C(C2=C(CNC3(CCSCC3)O2)C1)I | C16H22INOS
